US06982274B2
tert-Butyl 3-(imidazo[1,2-a]pyridin-2-yl)-5-nitro-1H-1-indazolecarboxylate
A total of 0.88 g of tert-butyl 3-(2-bromoacetyl)-5-nitro-1H-1-indazolecarboxylate was dissolved in 10 ml of tetrahydrofuran-methanol (1:1), and 240 mg of 2-aminopyridine and 210 mg of sodium hydrogencarbonate were added, followed by heating under reflux for 1 hour. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The mixture was washed with water, dried over magnesium sulfate and the solvent was removed. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:7), to give 0.38 g of the title compound as a pale yellow powder.

reactant | tert-butyl 3-(2-bromoacetyl)-5-nitro-1H-1-indazolecarboxylate | 0.88 g | BrCC(=O)C1=NN(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)OC(C)(C)C | C14H14BrN3O5
reactant | 2-aminopyridine | 240 mg | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydrogencarbonate | 210 mg | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran-methanol | 10 ml | O1C(CCC1)CO | C5H10O2
product | tert-Butyl 3-(imidazo[1,2-a]pyridin-2-yl)-5-nitro-1H-1-indazolecarboxylate | 0.38 g | N=1C(=CN2C1C=CC=C2)C2=NN(C1=CC=C(C=C21)[N+](=O)[O-])C(=O)OC(C)(C)C | C19H17N5O4
